US05872115
Step 2): In a similar manner to that of Preparation 1 step 2), 4-(N-formylamino)methyl-1-diphenylmethylpiperidine was reduced by LiAlH4 to give 4-(N-methylamino)methyl-1-diphenylmethylpiperidine; yield 100%.

reactant | 4-(N-formylamino)methyl-1-diphenylmethylpiperidine | C(=O)NCC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-(N-methylamino)methyl-1-diphenylmethylpiperidine | yield 100% | CNCC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H26N2
